US05147645
At room temperature, 29.8 g of thionyl chloride is carefully dripped into 35 g of 2-chloro-3-isopropylbenzyl alcohol in 80 ml of carbon tetrachloride. The mixture is stirred for 15 hours at 25° C. and then evaporated down. Distillation (bp 0.3 :76°-78° C.) gives 33 g of 2-chloro-3-isopropylbenzyl chloride.

reactant | thionyl chloride | 29.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-3-isopropylbenzyl alcohol | 35 g | ClC1=C(CO)C=CC=C1C(C)C | C10H13ClO
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-3-isopropylbenzyl chloride | 33 g | ClC1=C(CCl)C=CC=C1C(C)C | C10H12Cl2
